US06265575B1
Part E. 6-Benzyloxy-3-[(3-methoxy-4-hydroxyphenyl)methyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene
A 0° C. solution of 6-benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-methoxy-4-hydroxyphenyl ketone (Part D; 3.85 g, 6.64 mmol) in 100 mL of anhydrous THF was treated with DIBAL-H (17 mL, 1M solution in toluene) dropwise via syringe. After 1 hr at 0° C., the remaining DIBAL-H was quenched with excess MeOH. 100 mL of saturated Na+K+ tartrate and 50 mL of EtOAc were added, and the biphasic mixture was vigorously stirred for 1.5 hr at ambient temperature. The layers were separated, and the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic layers were dried over K2CO3, filtered and concentrated in vacuo. The crude residue was dissolved in 100 mL of 1,2-dichloroethane, and Et3SiH (9.4 mL, 58.7 mmol) was added. Upon cooling to 0° C., TFA (6.5 mL, 83.8 mmol) was added in a dropwise fashion. After 1.5 hr, the reaction mixture was poured into 300 mL of saturated NaHCO3 solution. The aqueous phase was extracted with EtOAc (2×150 mL). The combined organic layers were dried over K2CO3, filtered and concentrated in vacuo. Purification by PrepLC (SiO2; gradient of 0.5% to 2% MeOH in CHCl3, saturated with NH4OH) afforded 3.1 g (5.48 mmol; 83%) of a white solid.

reactant | 6-benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 3-methoxy-4-hydroxyphenyl ketone | 6.64 mmol, 3.85 g | COC=1C=C(C=CC1O)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)OCC2=CC=CC=C2 | C35H33NO5S
reactant | DIBAL-H | 1M, 17 mL | CC(C)C[AlH]CC(C)C
reactant | Et3SiH | 58.7 mmol, 9.4 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | 83.8 mmol, 6.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-Benzyloxy-3-[(3-methoxy-4-hydroxyphenyl)methyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)O)OC)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C35H35NO4S
